US07238808B2
2-[7-Trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiazole-5-sulfonic acid amide
The title compound was prepared from 3-ethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.10) (355 mg, 1.0 mmol) and 2-chloro-thiazole-5-sulfonamide (199 mg, 1.0 mmol) according to general procedure II. Obtained as a yellow solid (270 mg, 52%). MS (ISN) 516.1 [(M−H)−]; mp 251° C.

reactant | 3-ethynyl-7-trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 355 mg | C(#C)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC(=CC=C2)C(F)(F)F | C16H7F6N3
reactant | 2-chloro-thiazole-5-sulfonamide | 1.0 mmol, 199 mg | ClC=1SC(=CN1)S(=O)(=O)N | C3H3ClN2O2S2
product | 2-[7-Trifluoromethyl-5-(3-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-thiazole-5-sulfonic acid amide | FC(C1=CC(=NC=2N1N=CC2C#CC=2SC(=CN2)S(=O)(=O)N)C2=CC(=CC=C2)C(F)(F)F)(F)F | C19H9F6N5O2S2
